US05420275
3,4-Diethoxycarbonyl-6-(4-methoxyphenyl)-2-pyridone
To 100 mg of 2-amino-3,4-diethoxycarbonyl-6-(4-methoxyphenyl)pyridine were added 2 ml of 1N hydrochloric acid and 5 ml of dioxane, and thereto was added dropwise a solution of 26 mg (1.3 eq.) of sodium nitrite dissolved in 0.5 ml of water under ice-cooling. The mixture was stirred at room temperature overnight. The solvent was distilled off. The residue was neutralized with sodium hydrogencarbonate, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried. The solvent was distilled off. The resulting crude crystals were recrystallized from ethanol.

reactant | 2-amino-3,4-diethoxycarbonyl-6-(4-methoxyphenyl)pyridine | 100 mg | NC1=NC(=CC(=C1C(=O)OCC)C(=O)OCC)C1=CC=C(C=C1)OC | C18H20N2O5
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
reactant | dioxane | 5 ml | O1CCOCC1 | C4H8O2
reactant | sodium nitrite | 26 mg, 1.3 eq. | N(=O)[O-].[Na+]
solvent | water | 0.5 ml | O | H2O
product | 3,4-Diethoxycarbonyl-6-(4-methoxyphenyl)-2-pyridone | C(C)OC(=O)C=1C(NC(=CC1C(=O)OCC)C1=CC=C(C=C1)OC)=O | C18H19NO6
